US07109229B2
(c) (1-methyl-5-methoxy-1H-indol-7-yl)-oxo-acetic acid methyl ester
A solution of 1-methyl-5-methoxy-7-bromoindole (1.6 g, 6.66 mmol) in THF (44.5 mL) was cooled to −78° C. and a solution of tert-butyl lithium in pentanes (1.7 M, 8.62 mL, 14.7 mmol) added dropwise over 30 min. After 30 min at −78° C., the mixture was treated with dimethyl oxalate (1.96 g, 16.7 mmol) in one portion. After 15 min, the mixture was allowed to warm to room temperature and stirred 4 h. The reaction mixture was quenched with water, extracted with ethyl acetate, and the extracts washed with brine, dried (Na2SO4) and concentrated. Flash chromatography (EtOAc/hexanes) afforded the title compound (0.9 g, 54.7%) as bright yellow oil. 1HNMR (400 MHz, CDCl3) 3.83 (s, 3H), 3.87 (s, 3H), 4.00 (s, 3H), 6.51 (d, J=3.12 Hz, 1 H), 7.07 (d, J=3.13 Hz, 1H), 7.21 (d, J=2.35 Hz, 1H), 7.7.40 (d, J=2.34 Hz, 1H); MS (ES, m/z): C13H13NO4: 188.06 (M++1).

reactant | 1-methyl-5-methoxy-7-bromoindole | 6.66 mmol, 1.6 g | CN1C=CC2=CC(=CC(=C12)Br)OC | C10H10BrNO
reactant | tert-butyl lithium | C(C)(C)(C)[Li]
reactant | dimethyl oxalate | 16.7 mmol, 1.96 g | C(C(=O)OC)(=O)OC | C4H6O4
solvent | THF | 44.5 mL | C1CCOC1 | C4H8O
product | (1-methyl-5-methoxy-1H-indol-7-yl)-oxo-acetic acid methyl ester | 0.9 g, 54.7% | COC(C(=O)C=1C=C(C=C2C=CN(C12)C)OC)=O | C13H13NO4
